US05321135
Synthesis of methyl 1,2,3-trimethoxy-5H-benzo[3,4]cyclohepta[1,2-f][1,3]benzodioxole-6-carboxylate
Ferric perchlorate hexahydrate (342 mg, 0.74 mmol) and 0.5 ml of trifluoroacetic acid were added to a solution of methyl (E)-α-(1,3-benzodioxol-5-yl-methylene)-3,4,5-trimethoxybenzene- propionate [114 mg, 0.295 mmol; P. Magnus et.al., J. Am. Chem. Soc., 107, 4984, (1985)] in 5 ml of dichloromethane, followed by stirring at room temperature for 1 hour. The reaction mixture was dissolved in 20 ml of ethyl acetate. The resulting solution was washed successively with 2N-HCl, water and saturated NaHCO3, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Brown oil thus obtained (122 mg) was purified by TLC (silica gel: "MERCK #5744", eluent: 1:1 mixed solvent of ethyl acetate and hexane), whereby 96 mg of the title compound were obtained as colorless oil (yield: 85%).

reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl (E)-α-(1,3-benzodioxol-5-yl-methylene)-3,4,5-trimethoxybenzene- propionate | 0.295 mmol, 114 mg | O1COC2=C1C=CC(=C2)\C=C(\C(=O)OC)/CC2=CC(=C(C(=C2)OC)OC)OC | C21H22O7
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl 1,2,3-trimethoxy-5H-benzo[3,4]cyclohepta[1,2-f][1,3]benzodioxole-6-carboxylate | 96 mg | COC1=C(C(=CC2=C1C1=CC3=C(OCO3)C=C1C=C(C2)C(=O)OC)OC)OC | C21H20O7
